US04618712
Adipic acid bis-(N-cyano-2,4-dimethylphenylamide)
A solution of 10.07 g (0.055 mol) of adipyl chloride in 30 ml of acetone is added dropwise to 14.6 g (0.1 mol) of N-cyano-2,4-dimethylaniline in 60 ml of 2N NaOH (0.12 mol) at 10°-26° C. in the course of 40 minutes, while cooling and stirring rapidly, and the reaction mixture is then stirred for another 2 hours and 15 minutes at 15°-25° C. 50 ml of chloroform are then added, the mixture is stirred for 10 minutes, the two phases are separated, the organic phase is dried with anhydrous sodium sulfate, the suspension is filtered with suction and the filtrate is concentrated on a rotary evaporator at 40° C. in vacuo. The residue is recrystallised from 113 ml of ethyl acetate to give 18.7 g (93.0% of theory) of a colourless, crystalline compound with a melting point of 120°-122.2° C.

reactant | adipyl chloride | 0.055 mol, 10.07 g | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
reactant | N-cyano-2,4-dimethylaniline | 0.1 mol, 14.6 g | C(#N)NC1=C(C=C(C=C1)C)C | C9H10N2
reactant | NaOH | 0.12 mol, 2N, 60 ml | [OH-].[Na+]
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | Adipic acid bis-(N-cyano-2,4-dimethylphenylamide) | C(#N)N(C(CCCCC(=O)N(C#N)C1=C(C=C(C=C1)C)C)=O)C1=C(C=C(C=C1)C)C | C24H26N4O2
